US07652058B2
3-[(3aS,7R,7aR)-6-{(1R)-1-[3,5-bis(Trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-5-iodo-2-methylphenyl)hexahydropyrano[3,4-c]pyrrol-2(3H)-yl]cyclopent-2-en-1-one
The title compound was prepared from (3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-5-iodo-2-methylphenyl)octahydropyrano[3,4-c]pyrrole and cyclopentane-1,3-dione according to the procedures used for example 3. MS: (MH)+698.

reactant | (3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-5-iodo-2-methylphenyl)octahydropyrano[3,4-c]pyrrole | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@@H]1[C@H]([C@H]2[C@@H](CNC2)CO1)C1=C(C=C(C(=C1)I)F)C)(F)F | C24H23F7INO2
reactant | cyclopentane-1,3-dione | C1(CC(CC1)=O)=O | C5H6O2
product | 3-[(3aS,7R,7aR)-6-{(1R)-1-[3,5-bis(Trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-5-iodo-2-methylphenyl)hexahydropyrano[3,4-c]pyrrol-2(3H)-yl]cyclopent-2-en-1-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)OC1[C@H]([C@H]2[C@@H](CN(C2)C2=CC(CC2)=O)CO1)C1=C(C=C(C(=C1)I)F)C)(F)F | C29H27F7INO3
